US07645764B2
To a solution of 3-allyl-4-methyl-benzoic acid hydrazide (1.0 g, 5.26 mmol) and diisopropylethyl-amine (6.31 mL, 36.2 mmol) in acetonitrile (30 mL) was added isovaleric anhydride (1.31 mL, 6.58 mmol), and the mixture was allowed to stir for 18 hours at room temperature. To this mixture was added triphenylphosphine (5.66 g, 21.6 mmol), followed by hexachloroethane (2.86 g, 12.11 mmol). The mixture was stirred for 5 hours at room temperature. The solvent was evaporated under reduced pressure, and the residue was purified by flash chromatography eluting with 0-30% ethyl acetate in hexanes to give 2-(3-allyl-4-methyl-phenyl)-5-isobutyl-[1,3,4]oxadiazole (Yield: 1.32 g, 98%).

reactant | 3-allyl-4-methyl-benzoic acid hydrazide | 5.26 mmol, 1.0 g | C(C=C)C=1C=C(C(=O)NN)C=CC1C | C11H14N2O
reactant | diisopropylethyl-amine | 36.2 mmol, 6.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isovaleric anhydride | 6.58 mmol, 1.31 mL | C(CC(C)C)(=O)OC(CC(C)C)=O | C10H18O3
reactant | triphenylphosphine | 21.6 mmol, 5.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 12.11 mmol, 2.86 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(3-allyl-4-methyl-phenyl)-5-isobutyl-[1,3,4]oxadiazole | Yield: 1.32 g, 98% | C(C=C)C=1C=C(C=CC1C)C=1OC(=NN1)CC(C)C | C16H20N2O
